US05623078
Trimethyl cyclopropane-1,2,3-tricarboxylate (20.6 g, 95.2 mmols) was dissolved in methanol (200 ml), followed by dropwise adding sodium hydroxide (23.7 g, 593 mmol) (dissolved in water (100 ml)) at room temperature, thereafter heating and reacting the mixture under reflux for one hour, cooling the reaction product, adding conc. hydrochloric acid (40 g, 1.1 mol), concentrating the reaction solution, adding acetone (200 ml) to the concentrated residue, heating the mixture under reflux for 2 hours, filtering off the precipitate, and concentrating the filtrate under reduced pressure, to obtain cyclopropane-1,2,3-tricarboxylic acid (16.0 g, 91.9 mmol, 97%).

reactant | Trimethyl cyclopropane-1,2,3-tricarboxylate | 95.2 mmols, 20.6 g | C1(C(C1C(=O)OC)C(=O)OC)C(=O)OC | C9H12O6
reactant | sodium hydroxide | 593 mmol, 100 ml, 23.7 g | [OH-].[Na+]
reactant | hydrochloric acid | 1.1 mol, 40 g | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | cyclopropane-1,2,3-tricarboxylic acid | 91.9 mmol, 16.0 g, 97% | C1(C(C1C(=O)O)C(=O)O)C(=O)O | C6H6O6
